US09328193B2
Hydroformylation of Cyclododecatriene at 80° C. and 600 psig with Catalyst Recycle
A 100 mL Hastelloy C Parr reactor was cleaned, dried, and pressure tested with nitrogen at the reaction pressure. In a glove box was prepared a solution of Rh(CO)2(AcAc) (50.5 mg), tris(2,4-di-tert butylphenyl)phosphite (0.660 g), and heptane (15.1 g). The catalyst/ligand solution drawn into a 25 mL gas-tight syringe and the solution was transferred into the Parr reactor. The reactor was purged with syn gas (CO/H2 50:50, 200 psig) three times. The catalyst mixture was stirred at 600 rpm with 200 psig syn gas at 80-90° C. for 30 minutes to activate the catalyst complex, and then cooled to 25° C. overnight under 200 psig syn gas pressure. The reactor was warmed to 45° C., the syn gas was vented, and cyclododecatriene (34.3 g) was added with a 100 mL gas-tight syringe. The mixture was purged with syn gas then pressurized to 150 psig syn gas. The reaction was heated to 80° C. When the temperature reached 79° C., the syn gas pressure was increased to 600 psig. Samples were removed periodically via a three-way valve and analyzed by GC. The reaction was stopped after 9 hours by cooling to room temperature overnight under 200 psig syn gas and no agitation. The clear lower product phase was collected from the reactor via the sampling line (38.4 g). The catalyst solution was left in the reactor under 130 psig syn gas and room temperature. The syn gas was vented. Additional cyclododecatriene (34.3 g) was added to the reactor via a gas-tight syringe. The reactor was purged with syn gas and pressured to 600 psig syn gas. The reactor was heated to 80° C. for 6 hours and cooled to room temperature overnight. The next day, the reaction was continued at 80° C. for 3.5 hours. The reaction was cooled to room temperature overnight under 150 psig syn gas and no agitation. The product (49.4 g) was collected through the sample line. The remaining reactor contents of product and catalyst solution were collected and the reactor was cleaned with THF and dried.

reactant | tris(2,4-di-tert butylphenyl)phosphite | 0.660 g | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)OP(OC1=C(C=C(C=C1)C(C)(C)C)C(C)(C)C)OC1=C(C=C(C=C1)C(C)(C)C)C(C)(C)C | C42H63O3P
reactant | heptane | 15.1 g | CCCCCCC | C7H16
catalyst | Hastelloy C | 100 mL | [Cr].[Co]
product | Cyclododecatriene | C1=CC=CC=CCCCCCC1 | C12H18
